US05214037
To a solution of (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-hydroxyiminoacetic acid (86.3 g : 0.30 Mol.) in dimethylformamide (600 ml) are added potassium carbonate (92 g : 0.67 Mol.) and triphenylmethyl chloride (100 g : 0.36 Mol.), and the mixture is stirred at room temperature for 3 days. The reaction mixture is poured into a mixture of concentrated hydrochloric acid (111 ml) and ice water (1500 ml) and extracted with ethyl acetate. The extract is washed with water, aqueous 5% sodium hydrogen carbonate, 2% hydrochloric acid and brine, dried over sodium sulfate, and concentrated. The residue is crystalized from dichloromethane to give (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl) 2-trityloxyiminoacetic acid (144 g) as colorless crystals. Yield: 91%. mp.157 to 158° C.

reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-hydroxyiminoacetic acid | 0.30 Mol, 86.3 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/O | C10H13N3O5S
reactant | potassium carbonate | 0.67 Mol, 92 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylmethyl chloride | 0.36 Mol, 100 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | hydrochloric acid | 111 ml | Cl | ClH
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl) 2-trityloxyiminoacetic acid | 144 g, Yield: 91% | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N3O5S
